US07348017B2
1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic acid hydrochloride is reacted with 4-methoxybenzenesulfonyl chloride in dichloromethane in the presence of triethylamine, to give 2-[(4-methoxyphenyl)sulfonyl]-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid.

reactant | 1,2,3,4-Tetrahydro-3-isoquinolinecarboxylic acid hydrochloride | Cl.C1NC(CC2=CC=CC=C12)C(=O)O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(4-methoxyphenyl)sulfonyl]-1,2,3,4-tetrahydro-3-isoquinoline carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1CC2=CC=CC=C2CC1C(=O)O | C17H17NO5S
